US04908470
258 g of copper(I) oxide and 1670 ml of sodium methylate solution (30% in methanol) were boiled at reflux (88°-93° C.) for 15 minutes while stirring and gassing with argon. At this temperature, there was added dropwise with simultaneous distillation a solution consisting of 531 g of 3,5-dibromo-4-aminobenzoic acid, 1670 ml of sodium methylate solution (30% in methanol) and 2700 ml of dimethylformamide (dried over molecular sieve). The solvent was subsequently further distilled. 2200 ml were distilled off in total. The resulting red suspension was stirred at 113°-114° C. for an additional 45 minutes. Thereafter, 1300 ml of dimethylformamide were distilled off in a water-jet vacuum. 7500 ml of 4N sodium hydroxide solution were added to the resulting red residue and the suspension was stirred at about 100° C. for 30 minutes. Thereby 800 ml were again distilled off. The hot suspension was suction filtered over an internal glass suction filter. The residue was suspended three times in 1800 ml of hot water and filtered off each time. The solution, cooled to 5° C., was adjusted to PH 5 with 2000 ml of acetic acid while stirring. The resulting brown suspension was suction filtered and the residue was washed with 1000 ml of ice-water. The residue was dried at 60° C. in a water-jet vacuum. The thus-obtained crude product was boiled up with 3200 ml of methanol. The brown suspension was suction filtered and the filtrate was evaporated to dryness. There were obtained 313 g (88%) of 4-amino-3,5-dimethoxybenzoic acid.

reactant | sodium methylate | 1670 ml | C[O-].[Na+]
reactant | 3,5-dibromo-4-aminobenzoic acid | 531 g | BrC=1C=C(C(=O)O)C=C(C1N)Br | C7H5Br2NO2
reactant | sodium methylate | 1670 ml | C[O-].[Na+]
reactant | dimethylformamide | 2700 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) oxide | 258 g | [Cu-]=O
solvent | methanol | 3200 ml | CO | CH4O
product | 4-amino-3,5-dimethoxybenzoic acid | 313 g, 88% | NC1=C(C=C(C(=O)O)C=C1OC)OC | C9H11NO4
